US07781591B2
To a 1.0 L three-necked round-bottomed flask was added 50 mL of THF and the reaction mixture was cooled to −78° C. Butyl lithium (BuLi, 1.6 M, 14.4 mL, 23 mmol) was added dropwise keeping the temperature below −70° C. Acetonitrile (1.3 mL, 25 mmol) in 30 mL of THF was added dropwise to the flask amidst stirring and cooling. After 2 hours (h) of stirring, (3,4-dimethoxyphenyl)acetic acid methyl ester (2.3 g, 11 mmol) was added to the resulting white colloidal mixture in the flask. The reaction mixture was stirred for a further 2 h, followed by the addition of saturated ammonium chloride solution (NH4Cl, 75 mL) at −78° C. The organic layer was separated, dried with sodium sulfate (Na2SO4), filtered to remove the drying agent and evaporated to dryness to give the crude product. This crude product was purified by silica gel column chromatography, eluting with 30-70% ethyl acetate (EtOAc) in hexanes to yield 4-(3,4-dimethoxyphenyl)-3-oxo-butyronitrile in the form of a solidifying amber oil, 1.8 g (75%).

reactant | Butyl lithium | 23 mmol, 1.6 M, 14.4 mL | C(CCC)[Li]
reactant | Acetonitrile | 25 mmol, 1.3 mL | C(C)#N | C2H3N
reactant | (3,4-dimethoxyphenyl)acetic acid methyl ester | 11 mmol, 2.3 g | COC(CC1=CC(=C(C=C1)OC)OC)=O | C11H14O4
reactant | ammonium chloride | 75 mL | [Cl-].[NH4+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-(3,4-dimethoxyphenyl)-3-oxo-butyronitrile | COC=1C=C(C=CC1OC)CC(CC#N)=O | C12H13NO3
